US08859732B2
The crude crystals (1.23 g) of Fmoc-D-Lys(Boc)-D-Lys(Boc)-Leu-Leu-OBzl (2-MeO-4-OC12OC22) were dissolved in a mixture of chloroform (12 mL) and heptane (12 mL), and 3% trifluoroacetic acid/(chloroform-heptane=1:1) solution was added dropwise under ice-cooling. The reaction mixture was stirred in a water bath at 10-15° C. for 3 hr, and 2.5% aqueous sodium hydrogen carbonate solution (18 mL) and chloroform (18 mL) were added. 0.1N Hydrochloric acid was added, and the aqueous layer was adjusted to pH 2. The aqueous layer was removed, and the organic layer was washed 3 times with purified water (10 mL). The combined organic layers were concentrated under reduced pressure, and heptane (30 mL) was added to the residue. The precipitated crystals were washed at 40° C. and collected by filtration to give Fmoc-D-Lys(Boc)-D-Lys(Boc)-Leu-Leu-OH (800 mg, 93%).

reactant | Fmoc-D-Lys(Boc)-D-Lys(Boc)-Leu-Leu-OBzl | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C56H80N6O11
reactant | sodium hydrogen carbonate | 18 mL | C(O)([O-])=O.[Na+]
reactant | Hydrochloric acid | 0.1N | Cl | ClH
solvent | chloroform | 12 mL | C(Cl)(Cl)Cl | CHCl3
solvent | heptane | 12 mL | CCCCCCC | C7H16
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 18 mL | C(Cl)(Cl)Cl | CHCl3
product | Fmoc-D-Lys(Boc)-D-Lys(Boc)-Leu-Leu-OH | 800 mg, 93% | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C49H74N6O11
